US08119154B2
Manufacture and Testing of Implants Containing Triamcinolone and a Biodegradable Polymer Matrix
Triamcinolone acetonide was combined with a polymer in a stainless steel mortar and mixed using the Turbula shaker set at 96 RPM for 15 minutes. The powder of the fluocinolone and polymer was scraped off the walls of the steel mortar and then mixed again for an additional 15 minutes. The powder blend was heated at temperatures ranging from 110° C. to 160° C., depending on the polymer used, for a total of 30 minutes, forming a polymer/drug melt. The melt was pelletized, then loaded into the barrel and extruded into filaments, and finally the filaments were cut into about 0.5 mg or about 1 mg size implants. The implants had a weight range from about 450 μg to about 550 μg, or from about 900 μg to about 1100 μg. The 1 mg size implants had a length of about 2 mm and a diameter of about 0.72 mm.

reactant | Triamcinolone acetonide | C[C@]12C[C@@H]([C@]3([C@H]([C@@H]1C[C@@H]4[C@]2(OC(O4)(C)C)C(=O)CO)CCC5=CC(=O)C=C[C@@]53C)F)O | C24H31FO6
reactant | fluocinolone | C[C@]12C[C@@H]([C@]3([C@H]([C@@H]1C[C@H]([C@@]2(C(=O)CO)O)O)C[C@@H](C4=CC(=O)C=C[C@@]43C)F)F)O | C21H26F2O6
product | Triamcinolone | C[C@]12C[C@@H]([C@]3([C@H]([C@@H]1C[C@H]([C@@]2(C(=O)CO)O)O)CCC4=CC(=O)C=C[C@@]43C)F)O | C21H27FO6
